US09334366B2
12.2 g (82.6 mmol) of 4-bromobutyronitrile, 10 g (95.1 mmol) of (4-hydroxyphenyl)acetonitrile and 31.1 g (225 mmol) of potassium carbonate are dissolved in 100 mL of DMF. The mixture is heated to 80° C. overnight. After 20 hours, the reaction mixture is partitioned between EtOAc and water. The organic phase is washed repeatedly with brine, dried over sodium sulphate, filtered and concentrated by rotary evaporation. Purification by column chromatography on silica gel using ethylacetate:hexane 1:1 as eluent yields to 4.4 g of 4-[4-(cyanomethyl)phenoxy]butanenitrile as a thick yellow oil.

reactant | 4-bromobutyronitrile | 82.6 mmol, 12.2 g | BrCCCC#N | C4H6BrN
reactant | (4-hydroxyphenyl)acetonitrile | 95.1 mmol, 10 g | OC1=CC=C(C=C1)CC#N | C8H7NO
reactant | potassium carbonate | 225 mmol, 31.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-[4-(cyanomethyl)phenoxy]butanenitrile | 4.4 g | C(#N)CC1=CC=C(OCCCC#N)C=C1 | C12H12N2O
